US07956083B2
Description 13. 4-Bromo-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-1H-indole-6-carbonitrile (D13)
To a solution of 4-bromo-6-cyanoindole (900 mg, 4.1 mmol) in dichloromethane (30 mL) was added 4-benzyloxy-3-fluorobenzeneboronic acid (2.0 g, 8.1 mmol), triethylamine (1.2 mL, 8.6 mmol), copper (II) acetate (1.5 g, 8.2 mmol) and powdered 4A molecular sieves (2.0 g). The reaction mixture was stirred at room temperature in the presence of air for 16 hours. Further quantities of 4-benzyloxy-3-fluorobenzeneboronic acid (500 mg), triethylamine (0.3 mL) and copper acetate (375 mg) were added and the mixture stirred at room temperature in the presence of air for a further 16 hours. The mixture was filtered and the solid washed with dichloromethane. The filtrate was concentrated at reduced pressure. The product was purified by silica gel chromatography eluting with 2-40% ethyl acetate in hexane to yield the title compound (D13), (1.09 g).

reactant | 4-bromo-6-cyanoindole | 4.1 mmol, 900 mg | BrC1=C2C=CNC2=CC(=C1)C#N | C9H5BrN2
reactant | 4-benzyloxy-3-fluorobenzeneboronic acid | 8.1 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | triethylamine | 8.6 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxy-3-fluorobenzeneboronic acid | 500 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 8.2 mmol, 1.5 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper acetate | 375 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-Bromo-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-1H-indole-6-carbonitrile | 1.09 g | BrC1=C2C=CN(C2=CC(=C1)C#N)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C22H14BrFN2O
